US07189851B2
Ethyl (9aS)-4-(4-{[(1R)-2,3-dihydro-1H-inden-1-ylamino]carbonyl}phenyl)-5-oxo-2-(3,3,3-trifluoropropyl)-7,8,9,9a-tetrahydro-5H-pyrido[2,3-α]pyrrolizine-3-carboxylate
To a stirred solution of 4-[(9aS)-3-(ethoxycarbonyl)-5-oxo-2-(3,3,3-trifluoropropyl)-7,8,9,9a-tetrahydro-5H-pyrido[2,3-α]pyrrolizin-4-yl]benzoic acid (0.075 g, 0.162 mmol) in 1 mL of dichloromethane, EDCI (0.037 g, 0.194 mmol), HOBT (0.026 g, 0.194 mmol) and (R)-(−)-1-aminoindane (0.051 g, 0.324 mmol) were added. The reaction mixture was allowed to stir for ˜3 h. The mixture was then concentrated and redissolved in 1 mL of ethyl acetate. The organics were then washed with saturated aqueous NaHCO3 and brine. Filtration followed by concentration provided a brown oil which was purified by radial chromatography (ethyl acetate/hexanes (4:1)) to yield 0.046 g (49%) of the desired product as a white solid: 1H NMR (CDCl3, 400 MHz) δ 7.86–7.77 (d, 2H, J=8.27), 7.45–7.37 (d, 2H, J=8.28), 7.36–7.29 (d, 1H, J=6.38), 7.28–7.16 (m, 3H), 6.48–6.37 (m, 1H), 5.72–5.64 (q, 1H, J=7.59), 4.71–4.63 (dd, 1H, J=10.34, J=6.21), 4.13–3.96 (m, 2H), 3.72–3.58 (m, 1H), 3.38–3.26 (m, 1H), 3.22–3.08 (m, 2H), 3.07–2.96 (m, 1H), 2.96–2.83 (m, 1H), 2.79–2.56 (m, 3H), 2.55–2.38 (m, 1H), 2.38–2.22 (m, 2H), 1.98–1.84 (m, 1H), 1.45–1.27 (m, 1H), 1.04–0.95 (t, 3H, J=7.07); TLC (EtOAc/Hex(4:1)): Rf=0.3; RP-HPLC (BDS Hypersil C-18 25 cm×4.6 mm; 10–100% CH3CN in H2O with 0.1% TFA buffer, 30 minutes; 1 mL/min) tr=11.8 min, 94.1% purity.

reactant | 4-[(9aS)-3-(ethoxycarbonyl)-5-oxo-2-(3,3,3-trifluoropropyl)-7,8,9,9a-tetrahydro-5H-pyrido[2,3-α]pyrrolizin-4-yl]benzoic acid | 0.162 mmol, 0.075 g | C(C)OC(=O)C1=C(C2=C([C@@H]3CCCN3C2=O)N=C1CCC(F)(F)F)C1=CC=C(C(=O)O)C=C1 | C23H21F3N2O5
reactant | EDCI | 0.194 mmol, 0.037 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 0.194 mmol, 0.026 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (R)-(−)-1-aminoindane | 0.324 mmol, 0.051 g | N[C@@H]1CCC2=CC=CC=C12 | C9H11N
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | Ethyl (9aS)-4-(4-{[(1R)-2,3-dihydro-1H-inden-1-ylamino]carbonyl}phenyl)-5-oxo-2-(3,3,3-trifluoropropyl)-7,8,9,9a-tetrahydro-5H-pyrido[2,3-α]pyrrolizine-3-carboxylate | 0.046 g, 49% | [C@H]1(CCC2=CC=CC=C12)NC(=O)C1=CC=C(C=C1)C1=C(C(=NC2=C1C(N1CCC[C@@H]21)=O)CCC(F)(F)F)C(=O)OCC | C32H30F3N3O4
